US08071595B2
To a room temperature, stirred solution of ethyl benzo[c][1,2,5]oxadiazole-5-carboxylate (0.7 g, 3.626 mmol) in MeOH (30 mL) was added 10% NaOH solution (6 mL) and the reaction mixture was then stirred at 40° C. for 3 h. The reaction mixture was then acidified to pH ˜2 with 2 N HCl and the aqueous layer was extracted with DCM (3×150 mL). The combined organic extracts were washed with water (100 mL) and brine (100 mL), dried over anhydrous Na2SO4, filtered, and evaporated under reduced pressure to afford benzo[c][1,2,5]oxadiazole-5-carboxylic acid (0.49 g, 82%) as a solid.

reactant | ethyl benzo[c][1,2,5]oxadiazole-5-carboxylate | 3.626 mmol, 0.7 g | N=1ON=C2C1C=CC(=C2)C(=O)OCC | C9H8N2O3
reactant | NaOH | 6 mL | [OH-].[Na+]
reactant | HCl | 2 N | Cl | ClH
solvent | MeOH | 30 mL | CO | CH4O
product | benzo[c][1,2,5]oxadiazole-5-carboxylic acid | 0.49 g, 82% | N=1ON=C2C1C=CC(=C2)C(=O)O | C7H4N2O3
